US04617417
Methyl 3,4-dimethoxybenzenecarbamate
A solution of 15.3 g (0.1 mol) of 3,4-dimethoxyaniline in 60 mL of methylene chloride was treated with 55 mL of 2N sodium hydroxide. The reaction mixture was cooled to -5° C. and 7.4 mL (0.096 mol) of methyl chloroformate was added keeping the reaction temperature between 15°-25° C. The reaction was stirred 1.5 hr at 10°-20° C. and then 50 mL of water was added. The layers were separated and the aqueous layer was extracted with 4×100 mL of methylene chloride. The combined methylene chloride layers were dried over sodium sulfate and Darco treated. Evaporation gave a paste which was recrystallized from 10 mL of ethyl acetate and 10 mL of hexanes to give 18.4 g (98%) of the product, mp 83°-87° C. NMR (CDCl3) δ 3.75 (s, 3H, OCH3), 3.85 (s, 3H, OCH3), 6.63 (br s, 1H, NH), 6.73 (m, 2H, ArH), 7.13 (m, 1H, ArH).

reactant | 3,4-dimethoxyaniline | 0.1 mol, 15.3 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | sodium hydroxide | 2N, 55 mL | [OH-].[Na+]
reactant | methyl chloroformate | 0.096 mol, 7.4 mL | ClC(=O)OC | C2H3ClO2
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3,4-dimethoxybenzenecarbamate | 18.4 g, 98% | COC=1C=C(C=CC1OC)NC(=O)OC | C10H13NO4
